US05192775
1-(benzimidazol-2-yl)-4-aminomethylpiperidine
45 g of 4-aminomethylpiperidine are placed in 500 ml of anhydrous toluene in the presence of 55 g of potassium carbonate and of 50 g of 2-chlorobenzimidazole. The mixture is subjected to reflux overnight. Aver evaporation and crystallization of the oily residue, the expected product is obtained after washing with dichloromethane.

reactant | 4-aminomethylpiperidine | 45 g | NCC1CCNCC1 | C6H14N2
reactant | potassium carbonate | 55 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chlorobenzimidazole | 50 g | ClC=1NC2=C(N1)C=CC=C2 | C7H5ClN2
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(benzimidazol-2-yl)-4-aminomethylpiperidine | N1=C(NC2=C1C=CC=C2)N2CCC(CC2)CN | C13H18N4
